US04022833
A mixture of N,N'-(1,6-hexylene)-bis[N-methyl-2-hydroxyheptylamine] (5 g.), benzyl bromide (4.7 g.) and hexane (60 ml.) was heated under reflux (for 5 hr.). Acetonitrile (20 ml.) was added and refluxing was continued (for 5 hr.). the solvents, were stripped and the residue was recrystallized from ethylene dichloride, affording N,N'-(1,6-hexylene)-bis[N-benzyl-N-methyl-2-hydroxyheptylammonium ]dibromide (V: R = CH3 (CH2)4, R' = CH3, R" = C6H5CH2, X = (CH2)6, Y = Br) (3.5 g., m.p. 127.0°-129.0° C.)

reactant | N,N'-(1,6-hexylene)-bis[N-methyl-2-hydroxyheptylamine] | 5 g | C(CCCCCN(C)CC(CCCCC)O)N(C)CC(CCCCC)O | C22H48N2O2
reactant | benzyl bromide | 4.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexane | 60 ml | CCCCCC | C6H14
reactant | Acetonitrile | 20 ml | C(C)#N | C2H3N
product | N,N'-(1,6-hexylene)-bis[N-benzyl-N-methyl-2-hydroxyheptylammonium ]dibromide | [Br-].[Br-].C(CCCCC[N+](CC1=CC=CC=C1)(C)CC(CCCCC)O)[N+](C)(CC1=CC=CC=C1)CC(CCCCC)O | InChI=1S/C36H62N2O2.2BrH/c1-5-7-13-25-35(39)31-37(3,29-33-21-15-11-16-22-33)27-19-9-10-20-28-38(4,30-34-23-17-12-18-24-34)32-36(40)26-14-8-6-2;;/h11-12,15-18,21-24,35-36,39-40H,5-10,13-14,19-20,25-32H2,1-4H3;2*1H/q+2;;/p-2
